US09023847B2
78. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-2-phenyl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using tert-butyl (2-amino-1-phenylethyl)carbamate instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 378 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.44 (1H, br. s.) 10.72 (1H, s) 8.67 (2H, d, J=4.10 Hz) 8.59 (1H, t, J=5.64 Hz) 8.05 (1H, d, J=6.78 Hz) 7.89 (1H, d, J=5.27 Hz) 7.40-7.50 (3H, m) 7.30 (1H, d, J=5.27 Hz) 7.26 (2H, d, J=2.68 Hz) 6.90 (1H, br. s.) 6.65 (1H, d, J=6.83 Hz) 4.40-4.55 (1H, m) 3.70-3.80 (1H, m) 3.58-3.68 (1H, m)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | tert-butyl (2-amino-1-phenylethyl)carbamate | NCC(C1=CC=CC=C1)NC(OC(C)(C)C)=O | C13H20N2O2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-2-phenyl-ethyl)-amide | NC(CNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2)C2=CC=CC=C2 | C20H19N5OS
